US05993780
a. 5-Amino-3-acetoxymethyl-N-(2-hydroxyethyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride was reacted with ethanolamine according to the general procedure in Example 24g. The yield of isolated product was 98%.

reactant | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I | C10H7ClI3NO3
reactant | ethanolamine | C(O)CN | C2H7NO
product | 5-Amino-3-acetoxymethyl-N-(2-hydroxyethyl)-2,4,6-triiodobenzamide | NC=1C(=C(C(=C(C(=O)NCCO)C1I)I)COC(C)=O)I | C12H13I3N2O4
